US04428950
The intermediate 2,3-epoxypropoxy-4-(1,2,4-triazol-1-yl)-benzene is prepared in the following manner: 2.9 g (0.067 mole) of sodium hydride, as a 55% strength suspension in liquid paraffin, are introduced into 70 ml of anhydrous tetrahydrofuran, and a solution of 10.8 g (0.067 mole) of 4-(1,2,4-triazol-1-yl)-phenol in 50 ml of tetrahydrofuran is added dropwise. 9.2 g (0.067 mole) of epibromohydrin are then added dropwise. The reaction mixture is stirred for from 5 to 10 hours at room temperature and then poured onto 500 ml of aqueous sodium chloride solution, and the precipitate which separates out is filtered off under suction and washed thoroughly with water. The crude product is recrystallized from toluene/petroleum ether. 11.2 g (77%) of product of melting point 104°-105° C. are isolated.

reactant | sodium hydride | 0.067 mole, 2.9 g | [H-].[Na+]
reactant | 4-(1,2,4-triazol-1-yl)-phenol | 0.067 mole, 10.8 g | N1(N=CN=C1)C1=CC=C(C=C1)O | C8H7N3O
reactant | epibromohydrin | 0.067 mole, 9.2 g | C(Br)C1CO1 | C3H5BrO
reactant | sodium chloride | 500 ml | [Cl-].[Na+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | 2,3-epoxypropoxy-4-(1,2,4-triazol-1-yl)-benzene | O1C(COC2=CC=C(C=C2)N2N=CN=C2)C1 | C11H11N3O2
